US04097466
Ester C
310.4 Parts of ethylene glycol, 380.5 parts of 1,2 -propanediol, 670 parts of 1,1,1-trimethylolpropane, 1023 parts of adipic acid and 444.3 parts of phthalic anhydride are condensed respectively for 2 hours at 140° C., 160° C., 180° C., and then at 200° C., until the acid number is smaller than 5 mg. KOH/g., thus separating 306 parts of water. After adding 1629 parts of phthalic anhydride, the reaction is continued at 150° C. until the acid number of the polyester is 150 mg. KOH/g. The OH-number is about 48 mg. KOH/g.

reactant | 1,2 -propanediol | C(C(C)O)O | C3H8O2
reactant | 1,1,1-trimethylolpropane | C(O)C(CC)(CO)CO | C6H14O3
reactant | adipic acid | C(CCCCC(=O)O)(=O)O | C6H10O4
reactant | phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | KOH | [OH-].[K+]
solvent | ethylene glycol | C(CO)O | C2H6O2
product | Ester C | C([C@@H]([C@@H]1C(=C(C(=O)O1)O)O)O)O | C6H8O6
